US07842696B2
Water (1 mL) and NaOH (56 mg, 1.41 mmol) were added to a stirred solution of 5-phenyl-pyridine-2-carbonitrile (112 mg, 0.56 mmol) in ethanol at room temperature. The resulting mixture was heated at reflux temperature for 3 hours. The EtOH was evaporated, and the mixture was diluted with water (2 mL), acidified with citric acid solution and the product was extracted using EtOAc. The organic layer was washed with saturated brine solution, dried over Na2SO4 and concentrated under reduced pressure to afford 30 mg (27% yield) of 5-phenyl-pyridine-2-carboxylic acid.

reactant | Water | 1 mL | O | H2O
reactant | NaOH | 1.41 mmol, 56 mg | [OH-].[Na+]
reactant | 5-phenyl-pyridine-2-carbonitrile | 0.56 mmol, 112 mg | C1(=CC=CC=C1)C=1C=CC(=NC1)C#N | C12H8N2
solvent | ethanol | C(C)O | C2H6O
product | 5-phenyl-pyridine-2-carboxylic acid | 30 mg, 27% yield | C1(=CC=CC=C1)C=1C=CC(=NC1)C(=O)O | C12H9NO2
